US07829707B2
(a) Ethyl 3-[(3-chlorophenyl)amino]-1H-pyrrole-2-carboxylate
A mixture of 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.20 g, 1.3 mmol), 3-bromochlorobenzene (0.30 g, 1.6 mmol), Pd2(dba)3 (0.048 g, 0.052 mmol), rac-BINAP (0.048 g, 0.078 mmol) and cesium carbonate (0.59 g, 1.8 mmol) was heated at 100° C. in a sealed microwave vial under nitrogen atmosphere overnight. Additional Pd2(dba)3 (0.10 g, 0.11 mmol) and R,S-BINAP (0.11 g, 0.18 mmol) were added and the reaction was continued stirring at 100° C. overnight. Additional 3-bromochlorobenzene (0.15 g), Pd2(dba)3 (0.098 g) and R,S-BINAP (0.098 g) were added and the reaction was continued stirring at 100° C. for three more days. The reaction mixture was poured into ethanol and the resulting solution was filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography (heptane/ethyl acetate gradient; 0 to 30% ethyl acetate), obtaining 0.052 g (15%) of the title compound.

reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 1.3 mmol, 0.20 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
reactant | 3-bromochlorobenzene | 1.6 mmol, 0.30 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | rac-BINAP | 0.078 mmol, 0.048 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.8 mmol, 0.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromochlorobenzene | 0.15 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
catalyst | Pd2(dba)3 | 0.052 mmol, 0.048 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.11 mmol, 0.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.098 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-[(3-chlorophenyl)amino]-1H-pyrrole-2-carboxylate | 0.052 g, 15% | ClC=1C=C(C=CC1)NC1=C(NC=C1)C(=O)OCC | C13H13ClN2O2
